US05366972
5,11-Dihydro-11-ethyl-2-[2-(hydroxyethyl)piperidin-1-yl]-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound, m.p. 234°-237° C., was synthesized from 2-chloro-5,11-dihydro-11-ethyl-4 -methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 2-(hydroxyethyl)piperidine using procedures analogous to those described above, except that the mixture was heated at reflux for 1.25 hrs, and the product was crystallized from ethyl acetate/ethanol.

reactant | 2-chloro-5,11-dihydro-11-ethyl-4 -methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C14H13ClN4O
reactant | 2-(hydroxyethyl)piperidine | OCCC1NCCCC1 | C7H15NO
product | 5,11-Dihydro-11-ethyl-2-[2-(hydroxyethyl)piperidin-1-yl]-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC(=N2)N2C(CCCC2)CCO)C | C21H27N5O2
